US05965730
3-(3,4-Dimethoxyphenyl)-L-alanine ethyl ester hydrochloride (66 g), triethylamine (33.3 ml), 2-bromoisonicotinic acid (50.6 g), 1-hydroxybenzotriazole monohydrate (38.4 g) and 1,3-dicyclohexylcarbodiimide (51.7 g) are added to methylene chloride (660 ml), and the mixture is stirred at room temperature for four hours. The reaction mixture is washed, dried, and concentrated. The residue is purified by silica gel chromatography (solvent; chloroform:acetone=10:1) to give N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)-L-alanine ethyl ester (93.5 g).

reactant | 3-(3,4-Dimethoxyphenyl)-L-alanine ethyl ester hydrochloride | 66 g | Cl.C(C)OC([C@@H](N)CC1=CC(=C(C=C1)OC)OC)=O
reactant | 2-bromoisonicotinic acid | 50.6 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 1-hydroxybenzotriazole monohydrate | 38.4 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 51.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 660 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 33.3 ml | C(C)N(CC)CC | C6H15N
product | N-(2-bromoisonicotinoyl)-3-(3,4-dimethoxyphenyl)-L-alanine ethyl ester | 93.5 g | C(C)OC([C@@H](NC(C1=CC(=NC=C1)Br)=O)CC1=CC(=C(C=C1)OC)OC)=O | C19H21BrN2O5
